US07579473B2
Dry DMF (8.0 ml, 103 mmol) was dissolved in dry CHCl3 (40 ml) and cooled in an ice bath. Oxalyl chloride (9.0 ml, 105 mmol) in CH2Cl2 (10 ml) was added dropwise with stirring at 0° C. When the bubbling had ceased, this solution was added slowly to an ice-cold solution of 7-benzyloxy-6-methoxy-3H-quinazolin-4-one (10.0 g, 35.4 mmol) in dry CHCl3 (60 ml) and the mixture was then heated to reflux for 2-3 hrs. After cooling to room temperature, H2O (100 ml) was added and the phases were separated. The aqueous phase was further extracted with CHCl3 (2×). The combined CHCl3 extractions were washed with sat'd NaCl (1×), dried (Na2SO4) and concentrated in vacuo. The resulting residue was purified by flash chromatography (1:1 hexanes:EtOAc, followed by 100% EtOAc) to give 7-benzyloxy-4-chloro-6-methoxy-quinoline (5.11 g, 48%). LC/MS Calcd for [M+H]+ 301.1, found 301.1.

reactant | DMF | 103 mmol, 8.0 ml | CN(C)C=O | C3H7NO
reactant | Oxalyl chloride | 105 mmol, 9.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-benzyloxy-6-methoxy-3H-quinazolin-4-one | 35.4 mmol, 10.0 g | C(C1=CC=CC=C1)OC1=C(C=C2C(NC=NC2=C1)=O)OC | C16H14N2O3
reactant | H2O | 100 ml | O | H2O
reactant | CHCl3 | 40 ml | C(Cl)(Cl)Cl | CHCl3
reactant | CHCl3 | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 7-benzyloxy-4-chloro-6-methoxy-quinoline | 5.11 g, 48% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC | C17H14ClNO2
